US08039463B2
Ammonium chloride (228 mg, 4.2 mmol) in water (4 mL) was added to a solution of 1-(4-nitro-phenyl)-piperidine (220 mg, 1.0 mmol) in THF (6 mL) and the resulting mixture was stirred at 75° C. for 30 minutes. Iron powder (238 mg, 4.2 mmol) was then added portion wise and the mixture stirred for 5 hours at 75° C. The reaction mixture was filtered over celite, the filtrate was basified with sodium bicarbonate solution and the product extracted with ethyl acetate. The organic layer was washed with brine solution, dried over Na2SO4 and concentrated to afford 180 mg (96%) of 4-Piperidin-1-yl-phenylamine. LCMS: 177.13 (M+1)+, 80.6%, 1H NMR: (DMSO-d6): δ 6.67 (m, 2H), 6.47 (m, 2H), 4.51 (s, 2H), 2.57 (t, 4H), 1.6 (q, 4H), 1.49 (m, 2H)

reactant | Ammonium chloride | 4.2 mmol, 228 mg | [Cl-].[NH4+]
reactant | 1-(4-nitro-phenyl)-piperidine | 1.0 mmol, 220 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1CCCCC1 | C11H14N2O2
solvent | water | 4 mL | O | H2O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
catalyst | Iron | 4.2 mmol, 238 mg | [Fe] | Fe
product | 4-Piperidin-1-yl-phenylamine | 180 mg, 96% | N1(CCCCC1)C1=CC=C(C=C1)N | C11H16N2
